US06005103
3-[1-(Cyclohexylthio)-3,3-dimethylbutyl]-4-hydroxy-6-phenyl-2H-pyran-2-one, (±)
The title compound was prepared by Method C using 4-hydroxy-6-phenyl-2H-pyran-2-one (1.00 g, 5.31 mmol), ethanol (10 mL), 3,3-dimethylbutanal (0.73 mL, 5.84 mmol), cyclohexylmercaptan (1.86 mL, 13.8 mmol), piperdine (0.5 mL), acetic acid (0.5 mL). m.p. >225° C.; 1H NMR (400 MHz, DMSO-d6) δ0.85 (s, 9H), 1.25 (m, 5 H), 1.65 (m, 7 H), 4.30 (m, 1 H), 6.69 (s, 1 H), 7.54 (m, 3 H), 7.75 (m, 2 H).

reactant | 3,3'-Dithiobis[4-hydroxy-6-phenyl-2H-pyran-2-one] | 5.31 mmol, 1.00 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H14O6S2
reactant | 3,3-dimethylbutanal | 5.84 mmol, 0.73 mL | CC(CC=O)(C)C | C6H12O
reactant | cyclohexylmercaptan | 13.8 mmol, 1.86 mL | C1(CCCCC1)S | C6H12S
reactant | piperdine | 0.5 mL | N1CCCCC1 | C5H11N
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-[1-(Cyclohexylthio)-3,3-dimethylbutyl]-4-hydroxy-6-phenyl-2H-pyran-2-one | C1(CCCCC1)SC(CC(C)(C)C)C=1C(OC(=CC1O)C1=CC=CC=C1)=O | C23H30O3S
